US05103018
N-succinimidyl 3-(2-pyridyldithio)propionate (180 mg) was dissolved in methanol (4.5 ml), to which was added 1 ml of a methanol solution of ammonia (5% v/v). The mixture was stirred at 0° C. for 30 minutes, followed by concentration to 1 ml under reduced pressure. As a result, 3-(2-pyridyldithio)propanamide [disclosed in Japanese laid open Patent Application 57595/86 and CA105(19)173000q] was formed in the reaction solution. To this solution were added triethylamine (80 ml) and cysteamine hydrochloride (65 mg). The solution was stirred at room temperature for 10 minutes. Then, mitomycin A (50 mg) was added to the reaction solution, followed by stirring at room temperature for 2 hours. After addition of water (10 ml), the solution was extracted with chloroform (50 ml). The chloroform solution was dried with sodium sulfate, and the solvent was removed under reduced pressure. The material was chromatographed by the use of silica gel (10 ml; Wako-C200) and a solvent system of chloroform/methanol (9:1 v/v). The resultant blue fractions were collected combined, and concentrated. The concentrated fraction was dissolved in acetone and was dropwise added to cyclohexane to give precipitates. The precipitates were dryed under reduced pressure to obtain yellowish green powders of Compound 21 (15 mg) with a yield of 21%. The molar ratio of mitomycin-type substance contained in the produce was >99%.

reactant | N-succinimidyl 3-(2-pyridyldithio)propionate | 180 mg | C1CC(=O)N(C1=O)OC(=O)CCSSC2=CC=CC=N2 | C12H12N2O4S2
reactant | ammonia | N | H3N
solvent | methanol | 4.5 ml | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
product | 3-(2-pyridyldithio)propanamide | N1=C(C=CC=C1)SSCCC(=O)N | C8H10N2OS2
